US04692434
1-(5-methyl-2,4-dioxo-1H,3H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose
To 2.59 g. of 3,5-bis(t-butyldimethylsiloxy)-1-methanesulfonyloxy-2-desoxy-2,2-difluororibose was added 1.60 g. of 5-methyl-2,4-bis(trimethylsilyloxy)pyrimidine and 45 ml. of dry 1,2-dichloroethane. To this mixture was added 1.45 g. of trifluoromethanesulfonyloxytrimethylsilane, and the clear solution was stirred under nitrogen at reflux for about 2-3 hours. The reaction was then cooled to ambient temperature and 1.35 ml. of methanol were added and the suspension was stirred for 30 minutes. The precipitate was filtered and the filtrate was reduced to one-half its volume under vacuum and then diluted with an equal volume of dichloromethane. The solution was washed with saturated aqueous sodium bicarbonate and then with saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solution was filtered and the filtrate was saturated with anhydrous hydrogen bromide. The reaction mixture was stirred for 30 minutes and was then concentrated under vacuum. The residue was dissolved in methanol and the solution was evaporated to dryness under vacuum. The residue was dissolved in water and the solution was extracted twice with diethyl ether. The water layer was then evaporated to dryness. The residue was taken up in ethanol and evaporated repeatedly to azeotrope off all water. One g. of crude product was obtained, and was chromatographed on 30 g. of Woelm silica gel (70-150 mesh), eluting with ethyl acetate to yield 0.76 g. of desired product. It was further purified by recrystallization from ethyl acetate to obtain 0.37 g. of white crystalline product. nmr (CD3OD, 90 MHz) δ1.93 (s, 3H); 3.5-4.67 (series of m, 4H); 4.83 (bs, 3H); 6.3 (t, J=9Hz, 1H); 7.47 (m, 1H); mass spec. m/e=278=Parent.

reactant | 3,5-bis(t-butyldimethylsiloxy)-1-methanesulfonyloxy-2-desoxy-2,2-difluororibose | O([Si](C)(C)C(C)(C)C)[C@@](C(C(=O)OS(=O)(=O)C)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C18H38F2O9SSi2
reactant | 5-methyl-2,4-bis(trimethylsilyloxy)pyrimidine | CC=1C(=NC(=NC1)O[Si](C)(C)C)O[Si](C)(C)C | C11H22N2O2Si2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | trifluoromethanesulfonyloxytrimethylsilane | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | methanol | CO | CH4O
product | 1-(5-methyl-2,4-dioxo-1H,3H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose | CC=1C(NC(N(C1)C(=O)C([C@H](O)[C@H](O)CO)(F)F)=O)=O | C10H12F2N2O6
